US08071592B2
(c) Phenylmethyl [((3S)-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-3-piperidinyl)methyl]carbamate
To a solution of [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde (as the methyl hemiacetal) (0.250 g, 1.15 mmol) in 1:1 (MeOH/CHCl3) (25 mL) were added phenylmethyl [(3R)-3-piperidinyl-methyl]carbamate (0.210 g, 0.90 mmol) and Na2SO4 (0.100 g) and the resulting solution stirred at ambient temperature for 18 hours. Na(OAc)3BH (0.57 g, 2.7 mmol) was added and solution stirred an additional 2 hours. The reaction mixture was concentrated onto silica gel and chromatographed on a silica gel column) [0-100% Hexanes/EtOAc] to yield a colorless oil. (0.207 g, 51%) LCMS: m/z 451 (M+H)+.

reactant | [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde | COC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C11H10N2O3
reactant | phenylmethyl [(3R)-3-piperidinyl-methyl]carbamate | 0.90 mmol, 0.210 g | N1C[C@@H](CCC1)CNC(OCC1=CC=CC=C1)=O | C14H20N2O2
reactant | Na2SO4 | 0.100 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Na(OAc)3BH | 2.7 mmol, 0.57 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | Phenylmethyl [((3S)-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-3-piperidinyl)methyl]carbamate | COC1=CN=C2C=CC(N(C2=C1)CCN1C[C@@H](CCC1)CNC(OCC1=CC=CC=C1)=O)=O | C25H30N4O4
